US09193720B2
The 0.98 mL of 1M sodium hydroxide (39.3 mg, 0.98 mmol) was added to a solution (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(3-isopropylazetidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate (145 mg, 0.245 mmol) in ethanol (3 mL) and stirred for 18 h at 90° C. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep HPLC to afford (S)-2-(tert-butoxy)-2-(5-(4-(4-fluoro-phenethoxy)phenyl)-4-(3-isopropylazetidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid 99.4 mg (74%) as a mixture of diastereomers. 1H NMR (500 MHz, DMSO-d6) δ 7.36 (t, J=8.1 Hz, 2H), 7.30 (br. s, 1H), 7.12 (t, J=8.8 Hz, 2H), 7.1 (d, J=8.1 Hz, 1H), 6.97 (d, J=8.1 Hz, 1H), 6.86 (br. s, 1H), 4.93 (s, 1H), 4.21 (t, J=6.6 Hz, 2H) 3.96 (br. s, 1H), 3.86 (br. s, 1H), 3.70 (br. s, 1H), 3.47 (br. s, 1H), 3.03 (t, J=6.2 Hz, 2H), 2.39 (s, 3H), 2.07 (s, 3H), 2.05-2.01 (m, 1H), 1.52-1.47 (m, 1H), 1.08 (s, 9H), 0.65 (d, J=6.2 Hz, 6H). UPLC (M+H)=549.5.

reactant | sodium hydroxide | 0.98 mmol, 1M, 0.98 mL, 39.3 mg | [OH-].[Na+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(5-(4-(4-fluorophenethoxy)phenyl)-4-(3-isopropylazetidin-1-yl)-2,6-dimethylpyridin-3-yl)acetate | 0.245 mmol, 145 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CC(C1)C(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C36H47FN2O4
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(5-(4-(4-fluoro-phenethoxy)phenyl)-4-(3-isopropylazetidin-1-yl)-2,6-dimethylpyridin-3-yl)acetic acid | 99.4 mg, 74% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CC(C1)C(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C33H41FN2O4
